US04069323
To a suspension of 1.00 g (0.00236 mole) of N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginine in 20 ml of tetrahydrofuran was added little by little 0.98 g (0.0047 mole) of phosphorus pentachloride while cooling with ice water. The mixture was stirred for 1 hour at 0°-5° C, and then, for 2 hours at room temperature. To this reaction mixture was added 100 ml of dry ether, and the supernatant was removed by decantation. The residual oily product was washed with 50 ml of dry ether to give powdery N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl chloride dihydrochloride, which was added with stirring to a solution of 1.31 g (0.015 mole) of N-methyl-N-butylamine in 10 ml of chloroform. Thereafter, following the same procedures as described in Example 1, N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-N-methyl-N-butyl-L-argininamide monoacetae was obtained. Yield 0.76 g (58%).

reactant | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginine | 0.00236 mole, 1.00 g | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | phosphorus pentachloride | 0.0047 mole, 0.98 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl chloride dihydrochloride | N#N.Cl.Cl.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl | InChI=1S/C18H23ClN4O5S.2ClH.N2/c1-27-15-9-11-5-6-13(8-12(11)10-16(15)28-2)29(25,26)23-14(17(19)24)4-3-7-22-18(20)21;;;1-2/h5-6,8-10,14,23H,3-4,7H2,1-2H3,(H4,20,21,22);2*1H;/t14-;;;/m0.../s1
